US07220856B2
Preparation of N-[7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinolin-2-yl]-N′-phenylurea
To a solution of 2-amino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline (20 mg, 0.05 mmol) in MeCN-1,2-dichloroethane 1:1 (12 mL) is added phenyl isocyanate (17 μL, 0.11 mmol). The reaction mixture is heated at reflux for 1 h. Upon cooling the title product precipitates and is collected by filtration.

reactant | 2-amino-7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | 0.05 mmol, 20 mg | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F)Cl | C20H19ClFN5O
reactant | phenyl isocyanate | 0.11 mmol, 17 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | MeCN 1,2-dichloroethane | 12 mL | CC#N.ClCCCl
product | N-[7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinolin-2-yl]-N′-phenylurea | ClC1=CC=C2C(=CC(=NC2=C1)NC(=O)NC1=CC=CC=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C27H24ClFN6O2
